US08114877B2
b) (R)-[1,3′]Bipyrrolidinyl
A solution of (R)-1′-benzyl-[1,3′]bipyrrolidinyl (0.517 g, 2.24 mmol) in methanol (25 ml) under an atmosphere of argon is treated with palladium hydroxide on carbon (0.1 g). The reaction mixture is placed under an atmosphere of hydrogen, stirred at room temperature overnight and then filtered through Celite™ filter material. The filtrate is concentrated in vacuo to yield the title compound as a dark orange oil.

reactant | (R)-1′-benzyl-[1,3′]bipyrrolidinyl | 2.24 mmol, 0.517 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N1CCCC1 | C15H22N2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.1 g | [OH-].[OH-].[Pd+2]
product | (R)-[1,3′]Bipyrrolidinyl | N1(CCCC1)[C@H]1CNCC1 | C8H16N2
